US04382939
9-Chloro-3-[2-(ethylamino)propyl]-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one
Prepared by the method described for example 51 from 9-chloro-1,2,3,4-tetrahydro-8-methyl-3-(2-oxopropyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one (6.2 g, 0.020 moles) and ethylamine (6 ml, 0.092 moles). Recrystallization from ethyl acetate gave the product (1.4 g), mp 162°-163° C.

reactant | 9-chloro-1,2,3,4-tetrahydro-8-methyl-3-(2-oxopropyl)-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 0.020 moles, 6.2 g | ClC=1C(=CC2=C(C1)C1=C(CN(CC1)CC(C)=O)C(O2)=O)C | C16H16ClNO3
reactant | ethylamine | 0.092 moles, 6 ml | C(C)N | C2H7N
product | 9-Chloro-3-[2-(ethylamino)propyl]-1,2,3,4-tetrahydro-8-methyl-5H-[1]benzopyrano[3,4-c]pyridin-5-one | 1.4 g | ClC=1C(=CC2=C(C1)C1=C(CN(CC1)CC(C)NCC)C(O2)=O)C | C18H23ClN2O2
